US07018997B2
Step 2: Preparation of 5-benzyloxyethoxy-7,8-dihydro-6H-3,4,8b-triaza-as-indacene-2-carboxylic acid ethyl ester
6.0 gram (21 mmol) of 4-benzyloxyethoxy-6,7-dihydro-5H-cyclopentapyrimidin-2-ylamine was dissolved in 100 ml dry THF. Bromopyruvate (8 ml,) was then added dropwise with in five minutes. The mixture was stirred at 23° C. for one hour. It was then filtered and washed with ether to give a solid. This solid was then dissolved in 50 ml ethanol and refluxed for two hours. The reaction mixture was cooled to room temperature and partitioned between 350 ml chloroform and 200 ml saturated sodium bicarbonate. The organic layer was separated and dried over magnesium sulfate. Filter off the drying agent and concentrate to give 5.36 gram of product (67% Yield). (M+H) 382.1

reactant | 4-benzyloxyethoxy-6,7-dihydro-5H-cyclopentapyrimidin-2-ylamine | 21 mmol, 6.0 gram | C(C1=CC=CC=C1)OCCOC1=NC(=NC2=C1CCC2)N | C16H19N3O2
reactant | Bromopyruvate | 8 ml | BrCC(C(=O)[O-])=O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-benzyloxyethoxy-7,8-dihydro-6H-3,4,8b-triaza-as-indacene-2-carboxylic acid ethyl ester | 5.36 gram, 67% Yield | C(C)OC(=O)C1=CN2C=3CCCC3C(=NC2=N1)OCCOCC1=CC=CC=C1 | C21H23N3O4
